US07816344B2
(2S)-2-Amino-4-bromo-butyric acid methyl ester hydrobromide
SOCl2 (7.0 mL) was added slowly to MeOH (100 mL) at −20° C. (bath temp), and stirred for 30 min. 2-Amino-4-bromo-butyric acid hydrobromide (5.0 g, 19 mmol) was then added and the reaction mixture was stirred O/N at rt. Concentration in vacuo gave the title compound as a viscous liquid which become solid on standing: yield 5.2 g (99%).

reactant | SOCl2 | 7.0 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-Amino-4-bromo-butyric acid hydrobromide | 19 mmol, 5.0 g | Br.NC(C(=O)O)CCBr
reactant | MeOH | 100 mL | CO | CH4O
product | (2S)-2-Amino-4-bromo-butyric acid methyl ester hydrobromide | Br.COC([C@H](CCBr)N)=O | InChI=1S/C5H10BrNO2.BrH/c1-9-5(8)4(7)2-3-6;/h4H,2-3,7H2,1H3;1H/t4-;/m0./s1
